US09035053B2
Step 2: Preparation of tert-butyl (5-bromo-3-(3-(4-(((tert-butoxycarbonyl)(methyl)amino) methyl)phenyl)isoxazol-5-yl)pyrazin-2-yl)(tert-butoxycarbonyl)carbamate (Compound 4-iv)
A suspension of tert-butyl N-(5-bromo-3-ethynylpyrazin-2-yl)-N-tert-butoxycarbonylcarbamate (Compound 4-iii) (1.59 kg, 3.99 mol) and tert-butyl 4-(chloro(hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate (1.31 kg, 4.39 mol; 1.10 equiv.) in CH2Cl2 (12.7 L) is stirred at ambient temperature. Triethylamine (444 g, 611 mL, 4.39 mol) is added to the suspension and the reaction temperature is maintained between 20-30° C. for 20-48 h to ensure complete reaction. The reaction mixture is diluted with water (8 L) and thoroughly mixed, then the phases are separated. The organic phase is washed with water (8 L), dried (Na2SO4), and then concentrated until about 1 L of CH2Cl2 remains. The concentrate is diluted with heptane (3.2 L) and re-concentrated at 40° C./200 torr until no distillate is observed. The concentrate is stirred and further diluted with heptane (12.7 L) to precipitate a solid. The suspension is stirred overnight. The solid is collected by filtration, washed with heptane (2×3 L) then dried to afford Compound 4-iv (2.42 kg; 92% yield, 100 area % purity by HPLC) as a light tan powder. 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 7.82 (d, J=8.2 Hz, 2H), 7.31 (m, 3H), 4.46 (br s, 2H), 2.84 (br d, 3H), 1.57 (s, 2H), 1.44 (br s, 9H), 1.36 (s, 18H).

reactant | tert-butyl N-(5-bromo-3-ethynylpyrazin-2-yl)-N-tert-butoxycarbonylcarbamate | 3.99 mol, 1.59 kg | BrC=1N=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C#C | C16H20BrN3O4
reactant | tert-butyl 4-(chloro(hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate | 4.39 mol, 1.31 kg, 1.10 equiv. | ClC(C1=CC=C(CN(C(OC(C)(C)C)=O)C2CCOCC2)C=C1)=NO | C18H25ClN2O4
reactant | Triethylamine | 4.39 mol, 611 mL, 444 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 12.7 L | C(Cl)Cl | CH2Cl2
solvent | water | 8 L | O | H2O
product | tert-butyl (5-bromo-3-(3-(4-(((tert-butoxycarbonyl)(methyl)amino) methyl)phenyl)isoxazol-5-yl)pyrazin-2-yl)(tert-butoxycarbonyl)carbamate | 92% yield | BrC=1N=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C1=CC(=NO1)C1=CC=C(C=C1)CN(C)C(=O)OC(C)(C)C | C30H38BrN5O7
